US04005208
A solution of 3.7 g. (15.4 mmoles) of 9-acetoxyxanthene and 2.2 g. (15.5 mmoles) of 1-ethyl-3-methylaminopiperidine in 80 ml. of benzene was refluxed under nitrogen for 22.5 hours. It was then cooled to room temperature, washed with aqueous sodium bicarbonate solution, and dried over potassium carbonate. After removal of solvent in vacuo, the residue was dissolved in 25 ml. of petroleum ether and filtered from a small amount of crystals. The filtrate was then concentrated in vacuo and chromatographed on silica gel (ether solvent) to give N-methyl-N-(N-ethyl-3-piperidinyl)-9-xanthenylamine.

reactant | 9-acetoxyxanthene | 15.4 mmoles | C(C)(=O)OC1C2=CC=CC=C2OC=2C=CC=CC12 | C15H12O3
reactant | 1-ethyl-3-methylaminopiperidine | 15.5 mmoles | C(C)N1CC(CCC1)NC | C8H18N2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-methyl-N-(N-ethyl-3-piperidinyl)-9-xanthenylamine | CN(C1CN(CCC1)CC)C1C2=CC=CC=C2OC=2C=CC=CC12 | C21H26N2O
